* source TX_PA
V_V1         N00269 0 DC 0Vdc AC 1Vac 
L_L1         N00265 N00145  20nH  
L_L2         N00145 OUT  20nH  
C_C1         0 N00145  {c}  TC=0,0 
R_R1         N00269 N00265  50 TC=0,0 
R_R2         0 OUT  50 TC=0,0 
.PARAM  c=7.3pf
